data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2487,2762,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[N+:23]([CH3:24])=[C:25]([C:26](=[O:27])[O:28][CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[N:23]([CH3:24])[C:25]2([C:26](=[O:27])[O:28][CH3:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,water,298.15,38.23493663398728,-0.4873258899470151
4144,4745,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([C:16]#[N:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:14]=[C:13]2[C:11]([NH:10][CH3:9])=[O:12],water,298.15,3.2502730004826588,-34.16978204305723
949,1030,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([C:16]([CH3:17])=[O:18])([C:19](=[O:20])[O:21][CH3:22])[NH:14][CH2:13]2,water,298.15,35.61814954845144,-8.37442064133557
4288,4905,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][O+:13]=[C:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[O:21][CH3:22])[O:13][N:12]2[CH3:11],water,298.15,14.657304766305783,-29.79462278413681
4326,4947,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,14.35794085227411,-35.47271663501707
3981,4556,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19]([CH3:20])=[O:21],water,298.15,10.805656425027175,-35.7555662823491
2345,2603,[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][CH-:21][C:22](=[O:23])[O:24][CH3:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([Cl:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:26]([CH3:27])=[O:28])[O:20][CH:21]2[C:22](=[O:23])[O:24][CH3:25],water,298.15,9.880448992990267,-68.97920943950814
4679,5335,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22](=[O:23])[NH:24][CH3:25]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]#[N:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,16.25504533965913,-38.67928655672867
489,535,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([CH3:19])[C:20]#[N:21].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:18]([CH3:19])([C:20]#[N:21])[N:16]([CH3:17])[C:14]3([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,15.49913143847548,-50.69320005989081
4710,5378,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[CH:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:17]([CH3:18])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[CH3:16],water,298.15,20.219296083133443,-24.17983025713689
3589,4096,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([CH3:17])([C:18]#[N:19])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,20.39227869154235,-39.86981376811121
4379,5000,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][NH-:23]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[NH:23][O:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,7.204483985192968,-34.72391276331705
